datasets/10k__Tet_Int.csv
SMILES Labelled
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)CCCCCC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"CCN([C:20](=[O:10])OC)C1=CC=CC=C1.[O-:21]C1=CC=CC=C1>>CCN([C:20]([O-:10])(OC)[O:21]C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[O]C(C)C(C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C(C)[S]2.C[S:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C([H])[S]2.C[O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21][H])([O]CC)[O][H].[Cl-]>>[Cl-].CC[O:10][H].[H][O+:21]=[C:20]([O]CC)[O][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C([H])[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([K])C(CC)C(C)=C1C>>[O:10]([K])C(CC)/C(C)=C([C:20](OC)=[O:21])/C 21=20;20,10=10"
"[O:10]([Na])C(CC)C([H])/C([H])=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C([H])C([H])C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"[H][S:10]C(CC)C(C)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][S+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[NH:10](C)C([H])C(O)C(O)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(O)C(O)C([H])[NH+:10]1(C) 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][H])([O]C)[S][H].[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([O]C)[S][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)CC>>CC1C(C(O[C:20](=[O:10])N1[H])CC)CC.[O-:21]C 10=20;20,21=21"
"[O-:21][C:20]1([H])C(O)C(O)C([H])C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])C([H])C(O)C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CCCCCC)CC>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C)[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]C1=CC=CC=C1)[H] 21=20;20,10=10"
"[O:10]([K])C(CCC)C(C)C([C:20](C)=[O:21])O>>[O-:21][C:20]1(C)[O+:10]([K])C(CCC)C(C)C1O 10=20;20,21=21"
"C[O+:10]([H])[C:20]([NH:21][H])([NH]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].[H][NH+:21]=[C:20]([NH]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]CC)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
